*****************************************************************
* NXP PSMN010-25YLC 
*
* Polarity N-Channel
* Ratings 25V/1.060000E-002OHMS/39A
*
* Date Created Tue Sep 06 07:49:53 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN010-25YLC  DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.26194671058465
RLS1 8 7 0.00035

RDS 7 4 2500000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00722729692256551 TC=0.00474591967293232,4.00061189664698E-06
RBD 9 4 0.00348597107084177 TC=0.00474591967293232,4.00061189664698E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 5.8e-10
RG 1 2 1.96663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -16	327
+ -10	326
+ -5	325
+ -4	323
+ -3	318
+ -2	298
+ -1	218
+ -0.5	264
+ -0.2	226
+ -0.1	215
+ 0	201
+ 0.1	194
+ 0.2	182
+ 0.5	146
+ 1	113
+ 2	86
+ 3	74
+ 4	66
+ 5	61
+ 6	58
+ 8	53
+ 10	50
+ 12	48
+ 15	45
+ 20	42
+ 25	39


.MODEL MINT NMOS(Vto=1.99500 Kp=8.990e+001 Nfs=480000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=29 Ibv=2.500000E-004 Rs=1E-6 Is=3.950481148304459e-13
+ N=1 M=0.65 VJ=0.9 Fc=0.5 Cjo=6.65e-10 Tt=1.5132e-08)

.ENDS

